US04866151
N-(2,2-Dimethoxyethyl)-N-methyl methacrylamide (II)
Using the above procedure, a methacrylamide monomer was prepared from 23.23 g methacryloyl chloride, 24.53 g N-methylaminoacetaldehyde dimethyl acetal, 42 g NaOH (20% aqueous solution), and 90 ml methylene chloride.

reactant | methacryloyl chloride | 23.23 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | N-methylaminoacetaldehyde dimethyl acetal | 24.53 g | COC(CNC)OC | C5H13NO2
reactant | NaOH | 42 g | [OH-].[Na+]
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | N-(2,2-Dimethoxyethyl)-N-methyl methacrylamide | COC(CN(C(C(=C)C)=O)C)OC | C9H17NO3
